US06229011B1
4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(2-methoxyphenyl)carbonyl]-L-phenylalanine methyl ester was prepared from 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester and 2-methoxybenzoic acid using the general procedure described in example 3. HR MS: Obs. mass. 501.0984. Calcd. mass. 501.0984 (M+H).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C17H16Cl2N2O3
reactant | 2-methoxybenzoic acid | COC1=C(C(=O)O)C=CC=C1 | C8H8O3
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(2-methoxyphenyl)carbonyl]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)C1=C(C=CC=C1)OC)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C25H22Cl2N2O5
